US07214673B2
1,2-Bis(p-methoxybenzenesulfonylamino)ethane
Combine ethylenediamine (0.9 g, 15 mmol) in CH2Cl2 (50 mL) and mix with triethylamine (3.03 g, 30 mmol). Cool the mixture on a ice-water bath and add dropwise 4-methoxybenzenesulfonyl chloride (6.2 g, 30 mmol) in CH2Cl2 (50 mL). Warm the reaction to room temperature and stir overnight. Wash the reaction with 1N HCl (100 mL), sat. NaHCO3, brine, dry over Na2SO4, and concentrate the crude product in vacuo. Purification by flash chromatography (CH2Cl2/EtOAc=5:1) gives the title compound: Mass spectrum (electrospray): (m/z)=401.1 (M+1); 1H NMR (CDCl3): δ7.77–7.74 (m, 4H), 6.99–6.96 (m, 4H), 4.95 (br, 2H), 3.87 (s, 6H), 3.06–3.04 (m, 4H).

reactant | ethylenediamine | 15 mmol, 0.9 g | C(CN)N | C2H8N2
reactant | triethylamine | 30 mmol, 3.03 g | C(C)N(CC)CC | C6H15N
reactant | 4-methoxybenzenesulfonyl chloride | 30 mmol, 6.2 g | COC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO3S
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | 1,2-Bis(p-methoxybenzenesulfonylamino)ethane | COC1=CC=C(C=C1)S(=O)(=O)NCCNS(=O)(=O)C1=CC=C(C=C1)OC | C16H20N2O6S2
